US07524849B2
To a stirred mixture of sodium hydride (60% in mineral oil, 12 mg, 0.30 mmol) in 2 mL of dimethylsulfoxide is added 3-dimethylamino-1-propanol (27 μL, 0.23 mmol). The mixture is then stirred at room temperature for 1 h. 4-Chloro-6-[(2,2,2-trifluoroethyl)amino]-5-(2,4,6-trifluorophenyl)pyrimidin-2-yl(methyl)cyanamide (60 mg, 0.152 mmol) is then added, and the reaction mixture is heated at 60° C. for 4 h, and diluted with ethyl acetate. The organic layer is washed with water and saturated sodium chloride, dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of ethyl acetate to 50% methyl alcohol in ethyl acetate to methyl alcohol. Concentration provides 4-chloro-5-{4-[3-(dimethylamino)propoxy]-2,6-difluorophenyl}-6-[(2,2,2-trifluoroethyl)amino]pyrimidin-2-yl(methyl)cyanamide as a light yellow semisolid solid (20 mg). MS: m/z 479.3(M+H).

reactant | sodium hydride | 0.30 mmol, 12 mg | [H-].[Na+]
reactant | 3-dimethylamino-1-propanol | 0.23 mmol, 27 μL | CN(CCCO)C | C5H13NO
reactant | 4-Chloro-6-[(2,2,2-trifluoroethyl)amino]-5-(2,4,6-trifluorophenyl)pyrimidin-2-yl(methyl)cyanamide | 0.152 mmol, 60 mg | ClC1=NC(=NC(=C1C1=C(C=C(C=C1F)F)F)NCC(F)(F)F)N(C#N)C | C14H8ClF6N5
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-5-{4-[3-(dimethylamino)propoxy]-2,6-difluorophenyl}-6-[(2,2,2-trifluoroethyl)amino]pyrimidin-2-yl(methyl)cyanamide | ClC1=NC(=NC(=C1C1=C(C=C(C=C1F)OCCCN(C)C)F)NCC(F)(F)F)N(C#N)C | C19H20ClF5N6O
